US08609675B2
Step B—Synthesis of 4-(7-Hydroxy-pyrazolo[1,5-a]pyrimidin-5-yl)-cyclohexanecarboxylic acid -t-butyl ester (Int-7b)
4-(2-Ethoxycarbonyl-acetyl)-cyclohexanecarboxylic acid t-butyl ester (8.5 g) and 3-amino-1H-pyrazole (Int-7a, 26.5 mmol, 2.2 g) were mixed and heated neat at 100° C. for 16 hours. The resulting residue was dissolved in dichloromethane (100 mL) and concentrated in vacuo to remove water formed during cyclization. This solid was taken forward without further purification. LC-MS: 318 [M+H].

reactant | 4-(2-Ethoxycarbonyl-acetyl)-cyclohexanecarboxylic acid t-butyl ester | 8.5 g | C(C)(C)(C)OC(=O)C1CCC(CC1)C(CC(=O)OCC)=O | C16H26O5
reactant | 3-amino-1H-pyrazole | 26.5 mmol, 2.2 g | NC1=NNC=C1 | C3H5N3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(7-Hydroxy-pyrazolo[1,5-a]pyrimidin-5-yl)-cyclohexanecarboxylic acid -t-butyl ester | C(C)(C)(C)OC(=O)C1CCC(CC1)C1=NC=2N(C(=C1)O)N=CC2 | C17H23N3O3
